US04278808
37 g of 3-(2-Chloroethoxy)-2-ethylacrylic acid methyl ester (0.192 mole) was dispersed in 350 ml ethanol together with 6 g Raney nickel catalyst. The mixture was hydrogenated in a pressure vessel at 55°-60° C. at a hydrogen gage pressure of 30-60 atmospheres. When no further hydrogen was absorbed, the contents of the vessel were filtered to remove the catalyst, the solvent was distilled off, and the residue was fractionated in a vacuum. 3-(2-Chloroethoxy)-2-ethylpropionic acid methyl ester was obtained in an amount of 30.7 g (33.7 g) as a fraction boiling at 110° C. and 14 torr (82%-90% yield). nD20 =1.4399, d420 =1.083.

reactant | 3-(2-Chloroethoxy)-2-ethylacrylic acid methyl ester | 0.192 mole, 37 g | COC(C(=COCCCl)CC)=O | C8H13ClO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | Raney nickel | 6 g | [Ni] | Ni
product | 3-(2-Chloroethoxy)-2-ethylpropionic acid methyl ester | 82%-90% yield | COC(C(COCCCl)CC)=O | C8H15ClO3
